US08071773B2
c) 8-Azidomethyl-5,6,7,8-tetrahydroimidazo[1,5-a]pyridin-8-ol
A solution of 5 mmol of 6,7-dihydro-5H-spiro[imidazo[1,5-a]pyridine-8,2′-oxirane] in 15 ml of N,N-dimethylformamide is admixed with 10 mmol of sodium azide and the reaction mixture is heated at 60° C. for 4 hours. The mixture is poured into water and extracted with tert-butyl methyl ether. The combined organic extracts are washed with brine, dried with sodium sulphate and evaporated. From the residue the title compound is identified by means of flash chromatography (SiO2 60 F) on the basis of the Rf value.

reactant | 6,7-dihydro-5H-spiro[imidazo[1,5-a]pyridine-8,2′-oxirane] | 5 mmol | O1C2(C1)C=1N(CCC2)C=NC1 | C8H10N2O
reactant | sodium azide | 10 mmol | [N-]=[N+]=[N-].[Na+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 8-Azidomethyl-5,6,7,8-tetrahydroimidazo[1,5-a]pyridin-8-ol | N(=[N+]=[N-])CC1(C=2N(CCC1)C=NC2)O | C8H11N5O
